US07601711B2
[5-(3-Dimethylamino-piperidine-1-carbonyl)-1-isopropyl-1H-indol-2-yl]-morpholin-4-yl-methanone
The title compound was synthesized in analogy to Example 1, from 5-(3-dimethylamino-piperidine-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid, morpholine and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride, to afford the product as a colorless foam (42%).

reactant | 5-(3-dimethylamino-piperidine-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid | CN(C1CN(CCC1)C(=O)C=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)O)C | C20H27N3O3
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
product | [5-(3-Dimethylamino-piperidine-1-carbonyl)-1-isopropyl-1H-indol-2-yl]-morpholin-4-yl-methanone | CN(C1CN(CCC1)C(=O)C=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)N1CCOCC1)C | C24H34N4O3
